Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[C:7]([H:8])([H:9])[H:10].[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17]>>[H:1][O:2][C:3]([H:4])[C@@:5]([H:6])([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17],-1.45406534686
[C:9]([H:10])([H:11])[H:12].[H:1][C:2][O:3][C:4][O:5][C:6]([H:7])[H:8]>>[H:1][C:2][O:3][C:4][O:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12],-4.3540240362
[H:1][C:2]([H:3])[O:4][C:5][C:6]([H:7])([H:8])[O:9][C:10]([H:11])([H:12])[H:13]>>[H:1][C:2][H:3].[O:4]=[C:5][C:6]([H:7])([H:8])[O:9][C:10]([H:11])([H:12])[H:13],2.13598984332
[H:1][C:2]([H:3])([H:4])[C:5][C@@:6]([H:7])([O:8][C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16]>>[H:1][C:2]([H:3])=[C:5][C@:6]([H:7])([O:8][C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16].[H:4],1.96807018952
[C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[O:12][H:13].[O:1]=[C:2]>>[O:1]=[C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[O:12][H:13],-0.8322036438
[H:1][C:2][C@:3]1([H:4])[C:5]([H:6])[O:7][C@@:8]1([H:9])[C:10]([H:11])([H:12])[H:13]>>[H:1][C:2]/[C:3]([H:4])=[C:5](\[H:6])[O:7][C:8]([H:9])[C:10]([H:11])([H:12])[H:13],-0.959973290241
[H:1][O:2][C:3]([H:4])[C@:5]([H:6])([O:7][C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[H:1][O:2][C:3][C@@:5]([H:6])([O:7][C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15].[H:4],3.77097374052
[H:1][O:2][C:3]([C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17]>>[C:3]([C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17].[H:1][O:2],6.18080905551
[C:1][C:2]#[C:3][C:7]([H:8])([H:9])[H:10].[O:4]=[C:5][H:6]>>[C:1]#[C:2][C:3]([O:4][C:5][H:6])[C:7]([H:8])([H:9])[H:10],-0.362755978209
[O:1]=[C:2]([C:3]([H:4])[C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[C:2](=[C:3](\[H:4])[C:5]([H:6])([H:7])[H:8])\[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15].[O:1],5.89011334433
[H:1][C:2]([H:3])[C:4]([H:5])([H:6])/[C:7]([H:8])=[C:9](\[H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17]>>[H:17].[H:1][C:2]([H:3])[C:4]([H:5])([H:6])/[C:7]([H:8])=[C:9](\[H:10])[C:11]([H:12])([H:13])[C:14]([H:15])[H:16],4.56839288088
[O:1][O:2][C:3]#[C:4][C:5][C:6]([H:7])[H:8]>>[C:5]=[C:6]([H:7])[H:8].[O:1][O:2][C:3]#[C:4],6.1130589105
[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C@@:7]([H:8])([C:9]([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[C:12]([H:13])([H:14])[H:15].[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]([H:8])=[C:9]([H:10])[H:11],1.3834368170299998
[C:2]([H:3])=[C:4]([H:5])[C:6]#[C:7][O:8][H:9].[O:1]>>[O:1]=[C:2]([H:3])[C:4]([H:5])[C:6]#[C:7][O:8][H:9],-6.200965354909999
[H:1][O:2][C:3][O:4][C@@:5]1([H:6])[C:7][C:8]1[H:9]>>[H:1][O:2][C:3][O:4][C:5]([H:6])[C:7]#[C:8][H:9],-1.37112059977
[H:1][C:2][O:3][C:4]([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[O:12][H:13]>>[H:11].[H:1][C:2][O:3]/[C:4]([C:5]([H:6])([H:7])[H:8])=[C:9](/[H:10])[O:12][H:13],1.8576623896
[H:1][C:2][O:3][C:4]#[C:5][C:6]([H:7])=[C:8]([H:9])[H:10]>>[H:10].[H:1][C:2][O:3][C:4]#[C:5][C:6]([H:7])=[C:8][H:9],5.067169991419999
[H:1][O:2][C:3]/[C:6]([H:7])=[C:8](\[H:9])[C:10]([H:11])([H:12])[H:13].[O:4][H:5]>>[H:1][O:2][C:3]([O:4][H:5])=[C:6]([H:7])[C:8]([H:9])[C:10]([H:11])([H:12])[H:13],-5.480028288430001
[O:1][C:2]([H:3])([H:4])/[C:5]([H:6])=[C:7](\[H:8])[C:9]([H:10])=[C:11][H:12]>>[C:9]([H:10])#[C:11][H:12].[O:1][C:2]([H:3])([H:4])[C:5]([H:6])=[C:7][H:8],2.09047393727
[C:5]([H:6])[C:7]([H:8])([H:9])[O:10][C:11]([H:12])([H:13])[H:14].[H:1][C:2]([H:3])=[C:4]>>[H:1][C:2]([H:3])=[C:4]=[C:5]([H:6])[C:7]([H:8])([H:9])[O:10][C:11]([H:12])([H:13])[H:14],-6.8913718174100005
[H:1][C:2]#[C:3][C:4]([O:5][H:6])[O:7][C:8]([H:9])[H:10]>>[C:8]([H:9])[H:10].[H:1][C:2]#[C:3][C:4]([O:5][H:6])=[O:7],2.03946431173
[H:1][O:2]/[C:3](=[C:4](/[H:5])[C:6]([H:7])([H:8])[O:9][H:10])[C:11]([H:12])([H:13])[H:14]>>[H:1][O:2]/[C:3](=[C:4]\[C:6]([H:7])([H:8])[O:9][H:10])[C:11]([H:12])([H:13])[H:14].[H:5],5.075355142769999
[H:1][O:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])=[C:9]=[C:10]([H:11])[H:12]>>[C:9]=[C:10]([H:11])[H:12].[H:1][O:2][C:3]([H:4])([H:5])[O:6][C:7][H:8],5.722251277409999
[H:1][O:2][C:3]([H:4])([H:5])[C:6][C@:7]([H:8])([O:9][H:10])[C:11]([H:12])([H:13])[H:14]>>[C:11]([H:12])([H:13])[H:14].[H:1][O:2][C:3]([H:4])([H:5])/[C:6]=[C:7](\[H:8])[O:9][H:10],1.6855999309099998
[H:1][C:2][O:3][C:4]([H:5])[C:6]#[C:7][O:8][H:9]>>[C:6]#[C:7][O:8][H:9].[H:1][C:2][O:3][C:4][H:5],6.33702073338
[H:7].[O:1][C:2]#[C:3][C:4][C:5]([H:6])[C:8]([H:9])([H:10])[H:11]>>[O:1][C:2]#[C:3][C:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11],-2.25761180653
[H:1][O:2][C:3][C@@:4]([H:5])([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16]>>[C:4]([H:5])([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16].[H:1][O:2][C:3],3.19527932951
[O:1]=[C:2]([H:3])[C:4]([C:5](=[O:6])[H:7])[C:8]([H:9])([H:10])[H:11]>>[C:2]([H:3])=[C:4]([C:5](=[O:6])[H:7])[C:8]([H:9])([H:10])[H:11].[O:1],5.8797907233599975
